* PWR (субсхема из нетлиста KiCad)
.subckt PWR AC_REQ_OUT CANH CANL COND_RAW FAN_PWM_OUT FB_M1_RAW FB_M2_RAW FB_M3_RAW FB_M4_RAW GND ILLUM_IN_RAW MOTOR_1_A MOTOR_1_B MOTOR_2_A MOTOR_2_B MOTOR_3_A MOTOR_3_B MOTOR_4_A MOTOR_4_B NTC_HEAT_W SOLAR_RAW V5_SENS VBAT_IN VBAT_PROT VCC_12V VCC_3V3 VCC_5V
  C1 VCC_12V GND 470u
  C11 VCC_12V GND 100u
  C16 V5_SENS GND 100n
  C17 V5_SENS GND 100n
  C18 V5_SENS GND 100n
  C19 V5_SENS GND 100n
  C2 VCC_12V GND 100n
  C20 VCC_12V GND 1u
  C3 VCC_12V GND 10u
  C4 VCC_5V GND 10u
  D1 VBAT_IN VBAT_PROT MyD
  D2 GND VCC_12V TVS24
  D4 VCC_5V V5_SENS MyD
  D5 GND V5_SENS TVS5
  * J1: Connector_Generic:Conn_02x16_Odd_Even (не моделируется)
  L1 VBAT_PROT VCC_12V 1
  XU6 VCC_12V GND VCC_5V MC78M05
  XU7 VCC_5V GND VCC_3V3 AMS1117_33
.ends PWR
