* PWR — субсхема из нетлиста KiCad + YAML
.subckt PWR GND V5_SENS VBAT_IN
  C1 VBAT_IN VBAT_IN 470u
  C11 VBAT_IN VBAT_IN 100u
  C16 V5_SENS VBAT_IN 100n
  C17 V5_SENS VBAT_IN 100n
  C18 VBAT_IN VBAT_IN 100n
  C19 V5_SENS VBAT_IN 100n
  C2 VBAT_IN VBAT_IN 100n
  C20 VBAT_IN VBAT_IN 1u
  C3 VBAT_IN VBAT_IN 10u
  C4 VBAT_IN VBAT_IN 10u
  D1 VBAT_IN VBAT_IN MyD
  D2 VBAT_IN VBAT_IN MyD
  D4 VBAT_IN VBAT_IN MyD
  D5 VBAT_IN VBAT_IN MyD
  * J1: Conn_02x16_Odd_Even (Разъём к автомобилю 2x16 (32 конт.)) — не моделируется
  L1 VBAT_IN VBAT_IN 1
  XU6 VBAT_IN VBAT_IN VBAT_IN MC78M05
  XU7 VBAT_IN VBAT_IN VBAT_IN AMS1117_33
.ends PWR
